US04343648
6-Isopropyl-3-methoxy-5-ethoxy-6H-1,2,4,6-thiatriazine-1,1-dioxide (No. 1)
28.7 parts by weight of 5-chloro-6-isopropyl-3- methoxy-6H-1,2,4,6-thiatriazine-1,1-dioxide were added, a little at a time, in the course of 10 minutes, to a stirred mixture of 12.2 parts of triethylamine and 90 parts of absolute ethanol at 20°-25° C. After 3 hours' stirring at 25° C., the reaction mixture was evaporated down under reduced pressure, the residue was taken up in methylene chloride and the solution was washed with 10% strength sodium carbonate solution. After drying over magnesium sulfate, chromatography over alumina and evaporating down under reduced presure, 24 parts of 6-isopropyl-33-methoxy-5-ethoxy-6H-1,2,4,6-thiatriazine-1,1-dioxide, of melting point 81°-85° C. were obtained.

reactant | 5-chloro-6-isopropyl-3- methoxy-6H-1,2,4,6-thiatriazine-1,1-dioxide | ClC1=NC(=NS(N1C(C)C)(=O)=O)OC | C6H10ClN3O3S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | ethanol | C(C)O | C2H6O
product | 6-Isopropyl-3-methoxy-5-ethoxy-6H-1,2,4,6-thiatriazine-1,1-dioxide | C(C)(C)N1C(=NC(=NS1(=O)=O)OC)OCC | C8H15N3O4S
